US05254733
In 400 ml of 25% aqueous ammonia is dissolved 100 g (0.446 mol) of ethyl diethylphosphonoacetate at an temperature of not higher than 10° C. The solution is allowed to stand overnight at an temperature of not higher than 15° C. and concentrated under reduced pressure. To the residue is added 25 ml of toluene and the water is azeotropically removed off under reduced pressure. To the residue is added 300 ml of toluene and 100 ml is azeotropically removed off under atmospheric pressure for complete dehydration. The residual solution is cooled and seed crystals are added at 50° C. for crystallization. After cooling to 5° C., the crystals are collected by filtration. The crystals are washed with 100 ml of toluene and dried in vacuo overnight to give 76.7 g of diethylphosphono-acetamide (a carbamoyl-containing Wittig reagent) (Yield 88.0%).

reactant | ethyl diethylphosphonoacetate | 0.446 mol, 100 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | ammonia | 400 ml | N | H3N
product | diethylphosphono-acetamide | 76.7 g, Yield 88.0% | C(C)OP(=O)(OCC)CC(=O)N | C6H14NO4P
